US05589486
Preparation of 1-(4-Chlorophenyl)-3-[4-hydroxy-(4-chlorophenyl)-1-piperidyl]propanol
To a solution containing 1.2 g (0.03 mol) of sodium hydroxide in 50 ml of an 50% by volume ethanol/water mixture, 12.41 g (0.03 mol) of 1-(4-chlorophenyl)-3-[4-hydroxy-(4-chlorophenyl)-1-piperidyl]propanone hydrochloride and then, over 1 hour 1.17 g of sodium borohydride are added. The suspension is heated at a temperature of 50° C. for 2 hours. After cooling down, the reaction mixture is filtered and washed with water to give 11.45 g of product, m.p.: 129°-132° C. After recrystallization of the latter product from 215 ml of acetonitrile, 9.1 g of title compound are obtained.

reactant | sodium hydroxide | 0.03 mol, 1.2 g | [OH-].[Na+]
reactant | 1-(4-chlorophenyl)-3-[4-hydroxy-(4-chlorophenyl)-1-piperidyl]propanone hydrochloride | 0.03 mol, 12.41 g | Cl.ClC1=CC=C(C=C1)CC(CN1C(CC(CC1)O)C1=CC=C(C=C1)Cl)=O
reactant | sodium borohydride | 1.17 g | [BH4-].[Na+]
solvent | ethanol water | C(C)O.O
product | 1-(4-Chlorophenyl)-3-[4-hydroxy-(4-chlorophenyl)-1-piperidyl]propanol | 11.45 g | ClC1=CC=C(C=C1)C(CCN1C(CC(CC1)O)C1=CC=C(C=C1)Cl)O | C20H23Cl2NO2
